US04367282
428 g (1.0 mol) of 1-(2,4,6-trichlorophenyl)-3-(3-nitrobenzamido)-5-oxo-2-pyrazoline was added to 2.2 liters of dimethylformamide. To the solution, there was added dropwise 160 g (1.0 mol) of bromine with stirring while cooling with ice, and after stirring for about 1 hour, the reaction solution was poured into 9 liters of water. The crystals thus-separated were collected by filtration to obtain 489.5 g (96.6% yield) of 1-(2,4,6-trichlorophenyl)-3-(3-nitrobenzamido)-4-bromo-5-oxo-2-pyrazoline.

reactant | 1-(2,4,6-trichlorophenyl)-3-(3-nitrobenzamido)-5-oxo-2-pyrazoline | 1.0 mol, 428 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H9Cl3N4O4
reactant | dimethylformamide | 2.2 liters | CN(C=O)C | C3H7NO
reactant | bromine | 1.0 mol, 160 g | BrBr | Br2
solvent | water | 9 liters | O | H2O
product | 1-(2,4,6-trichlorophenyl)-3-(3-nitrobenzamido)-4-bromo-5-oxo-2-pyrazoline | 489.5 g, 96.6% yield | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)Br)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H8BrCl3N4O4
